US05789425
A 10 ml toluene solution of 4.54 g (14.8 mmol) of N-(4-chlorophenyl)-N-methoxycarbonyl-N'-(3-pyridyl)ethylenediamine in a 100 ml round-bottomed flask was heated gradually and, while distilling off toluene, it was heated for 1.5 hours at 190° to 210° C. The amorphous reaction mixture was cooled to room temperature and methylene chloride was added to dissolve. This was purified by column chromatography (silica gel, ethyl acetate:n-hexane=5:1) to obtain 2.28 g (yield 56%) of 1-(4-chlorophenyl)-3-(3-pyridyl)-2-imidazolidinone as brown crystals.

reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | N-(4-chlorophenyl)-N-methoxycarbonyl-N'-(3-pyridyl)ethylenediamine | 14.8 mmol, 4.54 g | ClC1=CC=C(C=C1)N(CCNC=1C=NC=CC1)C(=O)OC | C15H16ClN3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(4-chlorophenyl)-3-(3-pyridyl)-2-imidazolidinone | 2.28 g, yield 56% | ClC1=CC=C(C=C1)N1C(N(CC1)C=1C=NC=CC1)=O | C14H12ClN3O
